### PR TITLE
Phoa's principle for Δ²

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Parts extracted from #77 and #225.

### CODE REVIEW

**Comment by samtoth** [comment]
Out of interest, what was the motivation behind the change in order for Phoa's principle?

**Comment by fredrik-bakke** [comment]
It makes more sense to me to put the smallest term first so that the expression is increasing, just like any function on the interval. It also avoids the extremely slightly confusing point that induction on these polynomials go leftwards and not rightwards. I also think it is beneficial to determine a convention at some point, and this PR starts that.

**Comment by fredrik-bakke** [comment]
If you like I can add a remark that we pick a convention

**Comment by samtoth** [comment]
Thanks for the explanation. 

> If you like I can add a remark that we pick a convention

And yes, could be helpful. For future developers (me) as much as anything else!

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 1]
```diff
@@ -225,41 +239,35 @@ module _ (H : SQCP) where
...
-              (α₁ ∧ i1) ∨ α₀
-                ＝⟨ happly (_≃_.ε I[x]≃Δ¹→Δ¹ α) i1 ⟩
-              α i1 ∎))
-          ( α₀
-              ＝⟨ sym (ap (_∨ α₀) 0-init' ∙  0-bottom') ⟩
-            (α₁ ∧ i0) ∨ α₀
-              ＝⟨ happly (_≃_.ε I[x]≃Δ¹→Δ¹ α) i0  ⟩
-            α i0 ∎)
+              ( sym (ap (_∨ α₀) 1-top ∙ ∨-comm ∙ ≤-max (coefs .Δ².mono))
+              ∙ happly (_≃_.ε I[x]≃Δ¹→Δ¹ α) i1))
```
Comment (samtoth) [inline src/Synthetic/Quasicoherence.lagda.tree]:
```suggestion
    ∙ ap₂ (_∨_)
        ( sym (ap (_∨ α₀) 0-init' ∙  0-bottom')
        ∙ happly (_≃_.ε I[x]≃Δ¹→Δ¹ α) i0)
        (ap (_∧ i)
          ( sym (ap (_∨ α₀) 1-top ∙ ∨-comm ∙ ≤-max (coefs .Δ².mono))
          ∙ happly (_≃_.ε I[x]≃Δ¹→Δ¹ α) i1))
```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 2]
```diff
@@ -353,6 +362,52 @@ phoa←Δ¹-is-directed endos-monotone class α
...
+  phoas-principle-Δ²←phoas-principle phoa α ((j , i) ⦃ p ⦄)
+    = α ((j , i) ⦃ p ⦄)
+        ＝⟨ ap α (Δ²-ext (sym (≤-max' p) , refl)) ⟩
+      α ((j ∨ i , i) ⦃ ∨-≤-intror ≤-refl ⦄)
+        ＝⟨ phoa (λ k → α ((j ∨ k , k) ⦃ ∨-≤-intror ≤-refl ⦄)) i ⟩
+      α ((j ∨ i0 , i0) ⦃ ∨-≤-intror ≤-refl ⦄)
+      ∨ (α ((j ∨ i1 , i1) ⦃ ∨-≤-intror ≤-refl ⦄) ∧ i)
+        ＝⟨ ap₂ (_∨_)
+                (ap α (Δ²-ext (0-bottom , refl)))
+                (ap (_∧ i) (ap α (Δ²-ext (1-coinit , refl)))) ⟩
```
Comment (samtoth) [inline src/Synthetic/Quasicoherence.lagda.tree]:
```suggestion
        ＝⟨ ap₂ (_∨_)
             (ap α (Δ²-ext (0-bottom , refl)))
             (ap (_∧ i) (ap α (Δ²-ext (1-coinit , refl)))) ⟩
```

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: what

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: shouldn't there be a newline after `ap₂` then?

Comment (samtoth) [reply src/Synthetic/Quasicoherence.lagda.tree]: > what

As written, didn't this violate the principle that if ap_2 was renamed then the lines below would need to be realigned?

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: nvm

**Review by samtoth — APPROVED** [review]
